US05719148
1-N-ACETYLNIPECOTIC ACID
Nipecotic acid (3.87 grams) (30.0 mmoles) was reacted with acetic anhydride (9.17 grams) (90 mmoles) as described in Preparative Example 13A to give the title compound (Yield: 5.0 grams, 97%, MH+ 172).

reactant | Nipecotic acid | 30.0 mmoles, 3.87 grams | N1CC(C(=O)O)CCC1 | C6H11NO2
reactant | acetic anhydride | 90 mmoles, 9.17 grams | C(C)(=O)OC(C)=O | C4H6O3
product | 1-N-ACETYLNIPECOTIC ACID | Yield: 5.0 grams, 97% | C(C)(=O)N1CC(C(=O)O)CCC1 | C8H13NO3
